US04746356
N-[(5,6-Dihydro-4-methylfuro(2,3-d)pyrimidin-2-yl)-aminocarbonyl]-1-methyl-1H-benzotriazole-4-sulfonamide
To a stirred solution of 5,6-dihydro-4-methylfuro(2,3-d)pyrimidin-2-amine (0.08 g) and 1,4-diazabicyclo[2,2,2]octane (catalytic amount) in acetonitrile (5 mL) was added 0.125M 1-methyl-1H-benzotriazole-4-sulfonylisocyanate in acetonitrile (4.0 mL) under a nitrogen atmosphere. After stirring for 4 hours, the reaction was diluted with water (20 mL) and the precipitate was filtered, washed with water and ether, and dried to give 0.09 g of the title compound as a white solid. m.p. 234°-240° C. with decomposition.

reactant | 5,6-dihydro-4-methylfuro(2,3-d)pyrimidin-2-amine | 0.08 g | CC=1C2=C(N=C(N1)N)OCC2 | C7H9N3O
reactant | 1,4-diazabicyclo[2,2,2]octane | N12CCN(CC1)CC2 | C6H12N2
reactant | 1-methyl-1H-benzotriazole-4-sulfonylisocyanate | 0.125M | CN1N=NC2=C1C=CC=C2S(=O)(=O)N=C=O | C8H6N4O3S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | N-[(5,6-Dihydro-4-methylfuro(2,3-d)pyrimidin-2-yl)-aminocarbonyl]-1-methyl-1H-benzotriazole-4-sulfonamide | 0.09 g | CC=1C2=C(N=C(N1)NC(=O)NS(=O)(=O)C1=CC=CC=3N(N=NC31)C)OCC2 | C15H15N7O4S
